US09403798B2
[4-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate
To a tetrahydrofuran solution (2 mL) of 4-(trifluoromethyl)-1H-pyrazole, 1,8-diazabicyclo[5.4.0]undec-7-ene (10.9 μL, 0.07 mmol) and paraformaldehyde (43.8 mg, 1.46 mmol) were added at room temperature and the resultant mixture was stirred at 60° C. for 12 hours and at room temperature for 1 day. The reaction solution was filtered and triethylamine (153 μL, 1.10 mmol) and p-toluenesulfonic acid anhydride (286 mg, 0.88 mmol) were added to the filtrate, following by stirring the resultant mixture for 30 minutes. After completion of the reaction, saturated sodium carbonate aqueous solution was added to the reaction solution and extraction with ethyl acetate from the resultant mixture was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the obtained residue, ethyl acetate was added and the resultant mixture was filtered and concentrated under reduced pressure to obtain a crude product (232 mg) of the title compound.

reactant | 4-(trifluoromethyl)-1H-pyrazole | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | paraformaldehyde | 1.46 mmol, 43.8 mg | C=O | CH2O
reactant | triethylamine | 1.10 mmol, 153 μL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid anhydride | 0.88 mmol, 286 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.07 mmol, 10.9 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | [4-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate | 232 mg | CC1=CC=C(C=C1)S(=O)(=O)OCN1N=CC(=C1)C(F)(F)F | C12H11F3N2O3S
